US04567296
Trifluoroacetic anhydride (20 ml, 103.6 g, 0.49 moles) was added to a stirred solution of 1-hydroxy-2-nitro-2-azapropane (40.0 g, 0.38 moles) in dichloromethane (60 ml) at -5° to 0° C. during 11/2 hours. The resulting solution was then distilled without warming at 20 mm, then to 3 mm. The product was distilled at 1.5 mm, 65° C. to give 2-nitro-2-azapropyl trifluoroacetate; yield: 48 g (63%).

reactant | Trifluoroacetic anhydride | 0.49 moles, 20 ml, 103.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-hydroxy-2-nitro-2-azapropane | 0.38 moles, 40.0 g | OCN(C)[N+](=O)[O-] | C2H6N2O3
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-nitro-2-azapropyl trifluoroacetate | FC(C(=O)OCN(C)[N+](=O)[O-])(F)F | C4H5F3N2O4
